** sch_path: /home/la_hk/ktu-proto-lab/sg13g2/sar_adc/xschem/blocks/bandgap/0.48v_bandgap_tb.sch
**.subckt 0.48v_bandgap_tb VDDH VSS Out_0.48V
*.ipin VDDH
*.iopin VSS
*.opin Out_0.48V
XM1 Inp net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
x1 VDDH Inp Inn net1 I_bias VSS OTA_1
XM2 Inn net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
XR1 net2 Inp VSS rppd w=2e-6 l=100e-6 m=1 b=0
XQ1 VSS VSS net2 pnpMPA a=2e-12 p=6e-06 m=8
XQ2 VSS VSS Inn pnpMPA a=2e-12 p=6e-06
V1 VDDH VSS 3.3
XM3 Eq_ net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
XQ3 VSS VSS net3 pnpMPA a=2e-12 p=6e-06
XR2 net3 Eq_ VSS rppd w=2e-6 l=786e-6 m=1 b=0
XM4 net4 net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
XM5 net4 VDDH VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
XM6 net5 net4 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
XM7 net5 net4 VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
XM8 VDDH net5 VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
XM9 I_bias net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
x2 VDDH Eq_buf Eq_buf Eq_ Buf_I_bias VSS OTA_2
XR3 Out_0.48V Eq_buf VSS rppd w=2e-6 l=2310e-6 m=1 b=0
XR4 VSS Out_0.48V VSS rppd w=2e-6 l=1540e-6 m=1 b=0
XM10 Buf_I_bias net1 VDDH VDDH sg13_hv_pmos w=4u l=1u ng=1
**** begin user architecture code

.lib /eda/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /eda/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /eda/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /eda/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ



.control
 save all

set temp=27
op
echo === OP node voltages ===
print v(Inp) v(net2) v(net3) v(net4) v(Inn) v(eq_)
print n.xr1.nr1#i1 n.xr1.nr1#i2
print n.xm1.nsg13_hv_pmos#di
print n.xm3.nsg13_hv_pmos#di

dc temp -40 125 1

* Correct nodes after netlist analysis:
* Inn  = Q2 emitter = Vbe (CTAT reference)
* net2 = top of XR1 = OTA.Inp (tracks Inn when loop closed)
* net3 = bottom of XR1 = Q1 emitter
* ΔVbe = net2 - net3

let vbe   = inn
let vdvbe = net2 - net3
let veq   = eq_
let vnet4 = net4

* Vbe CTAT stats
let vbe_max = vecmax(vbe)
let vbe_min = vecmin(vbe)
let vbe_nom = mean(vbe)
let tc_vbe  = ((vbe_max - vbe_min) / vbe_nom) * 1e6 / 165

* ΔVbe PTAT stats
let vr_max = vecmax(vdvbe)
let vr_min = vecmin(vdvbe)
let vr_nom = mean(vdvbe)
let tc_vr  = ((vr_max - vr_min) / vr_nom) * 1e6 / 165

* PTAT current
let i_ptat    = vdvbe / 13e3
let i_ptat_ua = i_ptat * 1e6

* CATA output
let veq_max = vecmax(veq)
let veq_min = vecmin(veq)
let veq_nom = mean(veq)
let tc_eq   = ((veq_max - veq_min) / veq_nom) * 1e6 / 165

echo === Vbe CTAT (Inn) ===
print vbe_max vbe_min vbe_nom tc_vbe

echo === Delta_Vbe PTAT (net2-net3) ===
print vr_max vr_min vr_nom tc_vr

echo === I_PTAT uA ===
print vecmax(i_ptat_ua) vecmin(i_ptat_ua) mean(i_ptat_ua)

echo === Eq bandgap output ===
print veq_max veq_min veq_nom tc_eq

echo === net4 Q3 emitter ===
print vecmax(vnet4) vecmin(vnet4) mean(vnet4)

plot inn title 'Vbe vs T (CTAT)'
plot net2 - net3 title 'Delta_Vbe vs T (PTAT)'
plot eq_ title 'Eq bandgap output vs T'
plot i_ptat_ua title 'I_PTAT uA vs T'

wrdata /tmp/bg_inn.txt dc1.inn
wrdata /tmp/bg_eq.txt dc1.eq

echo === Eq bandgap output ===
print veq_max veq_min veq_nom tc_eq

* Better TC calculation — use max deviation from nominal
let veq_center = (veq_max + veq_min) / 2
let tc_eq_pp = (veq_max - veq_min) / veq_center * 1e6 / 165
print tc_eq_pp


print v(Eq_buf)
print v(Out_0.48V)
print n.xr3.nr1#i1

plot v(Out_0.48V)


.endc


**** end user architecture code
**.ends

* expanding   symbol:  blocks/cascode_ota/OTA_1.sym # of pins=6
** sym_path: /home/la_hk/ktu-proto-lab/sg13g2/sar_adc/xschem/blocks/cascode_ota/OTA_1.sym
** sch_path: /home/la_hk/ktu-proto-lab/sg13g2/sar_adc/xschem/blocks/cascode_ota/OTA_1.sch
.subckt OTA_1 VDDH Inp Inn Out I_bias VSS
*.ipin VDDH
*.iopin VSS
*.ipin I_bias
*.opin Out
*.ipin Inp
*.ipin Inn
XM2 net1 net1 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM3 net1 I_bias VSS VSS sg13_hv_nmos w=3u l=3u ng=1
XM1 I_bias I_bias VSS VSS sg13_hv_nmos w=3u l=3u ng=1
XM11 net8 I_bias VSS VSS sg13_hv_nmos w=3u l=3u ng=1
XM13 net5 Inp net2 VDDH sg13_hv_pmos w=8u l=1u ng=2
XM14 net6 Inn net2 VDDH sg13_hv_pmos w=8u l=1u ng=2
XM15 net7 net4 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM20 net3 net4 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM17 net4 v_net3 net7 VDDH sg13_hv_pmos w=10u l=1u ng=1
XM18 net4 v_net2 net5 VSS sg13_hv_nmos w=10u l=1u ng=1
XM19 net5 v_net1 VSS VSS sg13_hv_nmos w=9u l=1u ng=1
XM22 Out v_net2 net6 VSS sg13_hv_nmos w=10u l=1u ng=1
XM23 net6 v_net1 VSS VSS sg13_hv_nmos w=9u l=1u ng=1
XM12 net2 net8 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM10 net8 net8 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM6 v_net1 v_net1 VSS VSS sg13_hv_nmos w=8u l=1u ng=1
XM4 v_net2 net1 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM5 v_net2 v_net2 v_net1 VSS sg13_hv_nmos w=10u l=1u ng=2
XM7 net9 net9 VDDH VDDH sg13_hv_pmos w=10u l=1u ng=1
XM9 v_net3 I_bias VSS VSS sg13_hv_nmos w=1.9u l=3u ng=1
XM8 v_net3 v_net3 net9 VDDH sg13_hv_pmos w=10u l=1u ng=1
XM21 Out v_net3 net3 VDDH sg13_hv_pmos w=10u l=1u ng=1
.ends


* expanding   symbol:  blocks/5t_ota/OTA_2.sym # of pins=6
** sym_path: /home/la_hk/ktu-proto-lab/sg13g2/sar_adc/xschem/blocks/5t_ota/OTA_2.sym
** sch_path: /home/la_hk/ktu-proto-lab/sg13g2/sar_adc/xschem/blocks/5t_ota/OTA_2.sch
.subckt OTA_2 VDDH Out Inn Inp Bias_10uA VSS
*.ipin VDDH
*.opin Out
*.iopin VSS
*.ipin Bias_10uA
*.ipin Inp
*.ipin Inn
XM1 net1 net1 VDDH VDDH sg13_hv_pmos w=5u l=6u ng=1 m=4
XM2 Out net1 VDDH VDDH sg13_hv_pmos w=5u l=6u ng=1 m=4
XM3 net1 Inp net2 VSS sg13_hv_nmos w=10u l=2u ng=1 m=4
XM4 Out Inn net2 VSS sg13_hv_nmos w=10u l=2u ng=1 m=4
XM5 net2 Bias_10uA VSS VSS sg13_hv_nmos w=5u l=2u ng=1 m=12
XM6 Bias_10uA Bias_10uA VSS VSS sg13_hv_nmos w=5u l=2u ng=1 m=2
.ends

.GLOBAL VSS
.end
